US05538988
A suspension of 4-(1R,2R,3S,4)-tetrahydroxybut-1-yl)-1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione (0.252 g, 0.72 mmol) and lead tetraacetate (0.851 g, 1.92 mmol) in 15 mL of 33% acetic acid/benzene was stirred until the mixture was homogenous and 30 minutes. The reaction mixture was poured into 125 mL of saturated sodium carbonate solution and the mixture was filtered. The organic layer was separated, dried over magnesium sulfate and concentrated. The residue was dissolved in 40 mL of THF and 2 mL of sulfurous acid (6% SO2). Evaporation of the solvent gave 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde (0.15 g, 0.59 mmol), m.p. 206°-210° C.

reactant | 1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydroimidazole-2-thione | 0.72 mmol, 0.252 g | C1C(CCC2=CC=CC=C12)N1C(NC=C1)=S | C13H14N2S
reactant | lead tetraacetate | 1.92 mmol, 0.851 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | sodium carbonate | 125 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid benzene | 15 mL | C(C)(=O)O.C1=CC=CC=C1
product | 3-(1,2,3,4-tetrahydronaphthalen-2-yl)-2-thioxo-2,3-dihydro-1H-imidazole-5-carbaldehyde | 0.59 mmol, 0.15 g | C1C(CCC2=CC=CC=C12)N1C(NC(=C1)C=O)=S | C14H14N2OS
